US08557809B2
Step B: Preparation of 1-(8-bromoquinolin-2-yl)ethane-1,2-diol
To 8-bromo-2-vinylquinoline (0.886 g, 3.78 mmol) in acetone/H2O (8 mL/2 mL) was added 4-methylmorpholine N-oxide (1.06 g, 4.54 mmol) followed by OsO4 (0.5 mL, 2.5% in t-BuOH). The reaction mixture was stirred for two hours at ambient temperature then diluted with dichloromethane. The organic layer was washed with saturated sodium sulfate and brine and concentrated to give crude product.

reactant | 8-bromo-2-vinylquinoline | 3.78 mmol, 0.886 g | BrC=1C=CC=C2C=CC(=NC12)C=C | C11H8BrN
reactant | 4-methylmorpholine N-oxide | 4.54 mmol, 1.06 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | acetone H2O | 8 mL | CC(=O)C.O
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | OsO4 | 0.5 mL | O=[Os](=O)(=O)=O
product | 1-(8-bromoquinolin-2-yl)ethane-1,2-diol | BrC=1C=CC=C2C=CC(=NC12)C(CO)O | C11H10BrNO2
